US06506901B2
Step B: 1-[2-(2,5-Difluoro-phenyl)-ethyl]-3-[4-(4-formyl-piperidine-1-sulfonyl)-phenyl]-urea
A solution of 1-[2-(2,5-difluoro-phenyl)-ethyl]-3-[4-(4-dimethoxymethyl-piperidine-1-sulfonyl)-phenyl]-urea (0.170 g, 0.3 mmol) in 2 mL TFA was stirred for 15 minutes at ambient temperature. The excess TFA was removed in vacuo and the residue partitioned between ethyl acetate and water. The organic base was dried (Na2SO4) and the solvent evaporated to provide the title compound which was used directly in the next step.

reactant | 1-[2-(2,5-difluoro-phenyl)-ethyl]-3-[4-(4-dimethoxymethyl-piperidine-1-sulfonyl)-phenyl]-urea | 0.3 mmol, 0.170 g | FC1=C(C=C(C=C1)F)CCNC(=O)NC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C(OC)OC | C23H29F2N3O5S
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-[2-(2,5-Difluoro-phenyl)-ethyl]-3-[4-(4-formyl-piperidine-1-sulfonyl)-phenyl]-urea | FC1=C(C=C(C=C1)F)CCNC(=O)NC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)C=O | C21H23F2N3O4S
